US07635741B2
5-Ethynyl-2H-pyran-2-one (12)
To a solution of 5-[(trimethylsilyl)ethynyl]-2H-pyran-2-one (0.5 g, 2.6 mmol) and acetic acid (0.6 g, 10 mmol) in THF (50 mL) at 0° C. was added dropwise over 10 min tetrabutylammonium fluoride. The mixture was stirred for 1 h at 0° C. then was partitioned between sat. NaHCO3 and ether. The organic phase was washed with brine then dried (MgSO4). The solvent was passed through a plug of silica gel and then evaporated to give the title compound (0.30 g, 96%) as an off white solid; mp 99-100° C. 1H NMR (CDCl3 , 300 MHz): δ 7.73 (dd, 1H), 7.33 (dd, 1H), 6.32 (dd, 1H), 3.11 (s, 1H). 13C NMR (CDCl3 , 300 MHz) 159.4; 155.7; 144.6; 116.1; 103.3; 80.7; 75.7. Anal. Calc'd for C7H4O2: C, 70.00; H 3.36. Found: C, 70.09; H, 3.47.

reactant | 5-[(trimethylsilyl)ethynyl]-2H-pyran-2-one | 2.6 mmol, 0.5 g | C[Si](C)(C)C#CC=1C=CC(OC1)=O | C10H12O2Si
reactant | acetic acid | 10 mmol, 0.6 g | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Ethynyl-2H-pyran-2-one | 0.30 g, 96% | C(#C)C=1C=CC(OC1)=O | C7H4O2
